US05332736
(4-Methoxyphenyl)(1-methyl-1H-pyrrol-2-yl)-methanone
A solution of 5 g (0.06 mole) N-methylpyrrole and 13.3 g (0.078 mole) of 4-methoxybenzoyl chloride in 50 mL of dry toluene was heated under reflux overnight with an argon stream bubbling through the reaction mixture. After cooling, 40 mL of 20% 3-dimethylaminopropylamine in H2O was added and the mixture stirred for 45 minutes. Diethyl ether was added and the organic solution was washed with 1N HCl, NaHCO3, water, brine and dried (MgSO4). The solvent was evaporated in vacuo and the residue recrystallized from ethanol to give 3.68 g of product: mp. 66°-68° C.; mass spectrum (CH4 --Cl) m/z=216 (M+1); NMR (CDCl3) d 7.85 (d, 2H); 6.9-7.1 (d,s, 3H); 6.7 (d, 1H); 6.15 (d, 1H); 4.1 (s, 3H); 3.9 (s, 3H). Anal Calcd for C13H13NO 2 : C, 72.54; H, 6.09; N, 6.51. Found: C, 72.59; H, 6.06; N, 6.43.

reactant | N-methylpyrrole | 0.06 mole, 5 g | CN1C=CC=C1 | C5H7N
reactant | 4-methoxybenzoyl chloride | 0.078 mole, 13.3 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Methoxyphenyl)(1-methyl-1H-pyrrol-2-yl)-methanone | 3.68 g | COC1=CC=C(C=C1)C(=O)C=1N(C=CC1)C | C13H13NO2
